US08461179B1
A solution of 2-(2-bromo-4-fluoro-5-nitrophenyl)acetic acid (5.00 g, 17.98 mmol) in EtOH (100 mL) was treated with concentrated sulfuric acid (0.999 mL, 17.98 mmol) and heated at 85° C. overnight. The mixture was cooled to RT and the EtOH was removed under reduced pressure. The resulting oil was dissolved in MTBE, washed with water (2×) then brine (2×), dried (MgSO4), and concentrated to dryness. The material was purified by silica gel chromatography (EtOAc/Hex) to afford ethyl 2-(2-bromo-4-fluoro-5-nitrophenyl)acetate (2.679 g, 49% yield) as a yellow oil. 1H NMR (400 MHz, DMSO-d6): δ 8.33 (d, 1H), 8.08 (d, 1H), 4.12 (q, 2H), 3.96 (s, 2H), 1.20 (t, 3H); MS (ESI) m/z: 308.0 [M+H]+.

reactant | 2-(2-bromo-4-fluoro-5-nitrophenyl)acetic acid | 17.98 mmol, 5.00 g | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])CC(=O)O | C8H5BrFNO4
reactant | sulfuric acid | 17.98 mmol, 0.999 mL | S(O)(O)(=O)=O | H2O4S
reactant | EtOH | 100 mL | CCO | C2H6O
product | ethyl 2-(2-bromo-4-fluoro-5-nitrophenyl)acetate | 2.679 g, 49% yield | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])CC(=O)OCC | C10H9BrFNO4
